### PR TITLE
chore: removed unnecessary array indexing proofs

### PR DESCRIPTION
**Pull request by semorrison**
Inference of array indexing proofs has improved. This PR removes those that no longer need to be given explicitly.

I *think* this is an improvement but would like a second opinion.

### CODE REVIEW

**Comment by digama0** [comment]
Hm, too bad we don't have !bench here. Did you notice any performance degradation with this?

File: Std/Data/Array/Lemmas.lean [hunk 1]
```diff
@@ -108,7 +106,7 @@ theorem get?_push {a : Array α} : (a.push x)[i]? = if i = a.size then some x el
 @[simp] theorem data_set (a : Array α) (i v) : (a.set i v).data = a.data.set i.1 v := rfl
 
 theorem get_set_eq (a : Array α) (i : Fin a.size) (v : α) :
-    (a.set i v)[i.1]'(by simp [i.2]) = v := by
+    (a.set i v)[i.1] = v := by
   simp only [set, getElem_eq_data_get, List.get_set_eq]
```
Comment (joehendrix) [inline Std/Data/Array/Lemmas.lean:110]: It feels like `get_set_eq` should replace the `(i : Fin a.size) with `i : Nat` and a separate proof.  The current proof seems overly specific.

Comment (digama0) [reply Std/Data/Array/Lemmas.lean:110]: This may not work with rewriting if the argument to `set` is not a `Fin.mk` application.

**Comment by semorrison** [comment]
> Hm, too bad we don't have !bench here. Did you notice any performance degradation with this?

Before:
```
% lake build && hyperfine "rm -f .lake/build/lib/Std/Data/Array/Lemmas.olean && lake build Std.Data.Array.Lemmas"
Benchmark 1: rm -f .lake/build/lib/Std/Data/Array/Lemmas.olean && lake build Std.Data.Array.Lemmas
  Time (mean ± σ):      3.555 s ±  0.017 s    [User: 3.305 s, System: 0.395 s]
  Range (min … max):    3.528 s …  3.582 s    10 runs
```
After
```
% lake build && hyperfine "rm -f .lake/build/lib/Std/Data/Array/Lemmas.olean && lake build Std.Data.Array.Lemmas"
Benchmark 1: rm -f .lake/build/lib/Std/Data/Array/Lemmas.olean && lake build Std.Data.Array.Lemmas
  Time (mean ± σ):      3.760 s ±  0.029 s    [User: 3.497 s, System: 0.398 s]
  Range (min … max):    3.712 s …  3.805 s    10 runs
```

So there is a measurable slow-down. I'm inclined to say it's worth it, still?

File: Std/Data/Array/Lemmas.lean (hunk 1 above)
Comment (joehendrix) [reply Std/Data/Array/Lemmas.lean:110]: I don't follow but don't need to.  If these changes are useful to others, I am fine with merging them.
